US07629340B2
(S)-2-[3-(4-Cyclopropylcarbamoyl-thiazol-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6302)
A solution of (S)-2-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (90 mg, 0.2 mmol), 2-Bromo-thiazole-4-carboxylic acid cyclopropylamide (1 eq., 49 mg), Pd[P(Ph)3]4 (5 mol %, 10 mg), in methanol (4 mL), NaHCO3 (sat. aq., 600 uL) and DMF (800 uL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered and the solvents removed. The resulting mixture was redissolved in 5 ml of 90% DMF, 10% water with 0.1% TFA and purified by reverse phase HPLC to give the products. Yield 11.1 mg. MS: 491.3 (M+H). H1-NMR (DMSO-d6): δ (ppm) 10.2 (s, 1H), 8.4-8.2 (m, 2H), 7.8-7.0 (m, 10H), 6.5 (m, 2H), 5.1-4.9 (m, 2H), 4.4 (m, 1H), 2.8 (m, 1H), 2.3 (m, 1H), 1.9 (m, 3H), 0.7-0.6 (m, 4H).

reactant | (S)-2-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.2 mmol, 90 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H31BN2O5
reactant | 2-Bromo-thiazole-4-carboxylic acid cyclopropylamide | 49 mg, 1 eq. | C1(CC1)NC(=O)C=1N=C(SC1)Br | C7H7BrN2OS
reactant | NaHCO3 | 600 uL | C(=O)(O)[O-].[Na+]
reactant | DMF | 800 uL | CN(C)C=O | C3H7NO
solvent | methanol | 4 mL | CO | CH4O
product | (S)-2-[3-(4-Cyclopropylcarbamoyl-thiazol-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)C=1SC=C(N1)C(NC1CC1)=O)=O | C26H26N4O4S
